US08492549B2
1-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]ethanol
To a suspension of LiAlH4 (0.10 g, 2.58 mmol) in dry THF (4 ml), was added 1-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]ethanone (0.08 g, 0.26 mmol) in dry THF (3 ml). The reaction mixture was refluxed for 1.5 h. Water was slowly added and the reaction mixture extracted with EtOAc (3×10 ml). The combined organic phases were dried over Na2SO4, filtered and the filtrate was evaporated to give the desired product, which was purified by column chromatography (EtOAc/heptane, 50:50).

reactant | LiAlH4 | 2.58 mmol, 0.10 g | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 1-[1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]ethanone | 0.26 mmol, 0.08 g | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(CC)C(C)=O | C18H25NO3
reactant | Water | O | H2O
solvent | THF | 4 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 1-[1-(2,3-Dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidin-3-yl]ethanol | O1C(COC2=C1C=CC=C2)CN2CC(CCC2)(CC)C(C)O | C18H27NO3
